US08008317B2
A solution of 4-amino-2-chloropyridine (1.28 gm, 10 mmol) and di-tert-butyl dicarbonate (2.21 gm, 10.1 mmol) in THF (20 mL) was cooled to 0° C. and a solution of 1M lithium bis(trimethylsilyl)amide in THF (20 mL, 20 mmol) was added slowly maintaining the temperature below 0° C. The reaction was allowed to warm to room temperature over one hour and then quenched by the addition of 1.5 N aqueous ammonium chloride (15 mL). After stirring for several hours the reaction was extracted into ethyl acetate, washed with brine, the organic layer dried (Na2SO4), filtered and evaporated. The residue was triturated with diethyl ether give pure tert-butyl (2-chloropyridin-4-yl)carbamate. The mother liquors were chromatographed on silica gel eluting with 25-45% ethyl acetate/hexane to afford more product.

reactant | 4-amino-2-chloropyridine | 10 mmol, 1.28 gm | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | di-tert-butyl dicarbonate | 10.1 mmol, 2.21 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (2-chloropyridin-4-yl)carbamate | ClC1=NC=CC(=C1)NC(OC(C)(C)C)=O | C10H13ClN2O2
